US04539408
Potassium 5-methyl-2-acetylmethylene-3-(3-sulfonato-2-propen-1-yl)-benzothiazoline.
52 g of 2,5-dimethyl-benzothiazole hydrobromide and 48 g of potassium 3-hydroxy-1-propensulphonate were heated to 140° C. for 1 hour. 90 ml of acetic anhydride and 32 ml of triethylamine were added to the resulting melt of the quaternary salt and the mixture was stirred at 100° C. for 1 hour. The acetic acid formed in the reaction was then distilled off and the residue was taken up with water. Hydrochloric acid was added, whereupon the intermediate product crystallized.

reactant | 2,5-dimethyl-benzothiazole hydrobromide | 52 g | Br.CC=1SC2=C(N1)C=C(C=C2)C
reactant | potassium 3-hydroxy-1-propensulphonate | 48 g | OCC=CS(=O)(=O)[O-].[K+]
reactant | acetic anhydride | 90 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 32 ml | C(C)N(CC)CC | C6H15N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Potassium 5-methyl-2-acetylmethylene-3-(3-sulfonato-2-propen-1-yl)-benzothiazoline | CC=1C=CC2=C(N(C(S2)=CC(C)=O)CC=CS(=O)(=O)[O-])C1.[K+] | InChI=1S/C14H15NO4S2.K/c1-10-4-5-13-12(8-10)15(6-3-7-21(17,18)19)14(20-13)9-11(2)16;/h3-5,7-9H,6H2,1-2H3,(H,17,18,19);/q;+1/p-1
